Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
___ 01:00PM BLOOD WBC-6.6 RBC-4.41* Hgb-14.0 Hct-42.4 
MCV-96 MCH-31.7 MCHC-33.0 RDW-12.5 RDWSD-44.7 Plt ___
___ 01:00PM BLOOD Neuts-76.4* Lymphs-10.2* Monos-11.4 
Eos-1.2 Baso-0.2 Im ___ AbsNeut-5.02 AbsLymp-0.67* 
AbsMono-0.75 AbsEos-0.08 AbsBaso-0.01
___ 01:00PM BLOOD ___ PTT-28.3 ___
___ 01:00PM BLOOD Glucose-152* UreaN-10 Creat-0.9 Na-136 
K-3.9 Cl-100 HCO3-23 AnGap-13
___ 07:04AM BLOOD ALT-15 AST-16 LD(LDH)-137 AlkPhos-49 
TotBili-0.4
___ 01:00PM BLOOD CK-MB-2 proBNP-131
___ 01:00PM BLOOD cTropnT-<0.01
___ 06:05PM BLOOD cTropnT-<0.01
___ 01:00PM BLOOD Calcium-9.2 Phos-2.3* Mg-1.8
___ 07:04AM BLOOD PSA-2.1

DISCHARGE LABS
___ 07:04AM BLOOD WBC-7.5 RBC-4.26* Hgb-13.4* Hct-41.4 
MCV-97 MCH-31.5 MCHC-32.4 RDW-13.0 RDWSD-45.8 Plt ___
___ 07:04AM BLOOD ___ PTT-28.0 ___
___ 07:04AM BLOOD Glucose-90 UreaN-8 Creat-0.8 Na-144 K-4.2 
Cl-106 HCO3-22 AnGap-16
___ 07:04AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.1

IMAGING
CTA Chest: 
IMPRESSION: 
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Multiple pulmonary nodules are demonstrated throughout the 
bilateral lungs 
measuring up to 1.1 cm in the left upper lobe. 
3. No evidence of intrathoracic lymphadenopathy. 
4. A 1.3 cm right thyroid nodule. 
  
RECOMMENDATION(S):  Thyroid nodule.  No follow up recommended. 
Absent suspicious imaging features, unless there is additional 
clinical 
concern, ___ of Radiology guidelines do not 
recommend further 
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under 
age ___ or less than 1.5 cm in patients age ___ or ___. 
  
___, et al, "Managing Incidental Thyroid Nodules Detected on 
Imaging: White 
Paper of the ACR Incidental Findings Committee". J ___ 
___ ___ 
12:143-150. 
  
For incidentally detected multiple solid pulmonary nodules 
bigger than 8mm, a 
CT follow-up in 3 to 6 months is recommended in a low-risk 
patient, with an 
optional CT follow-up in 18 to 24 months. In a high-risk 
patient, both a CT 
follow-up in 3 to 6 months and in 18 to 24 months is 
recommended. 
  
See the ___ ___ Guidelines for the Management 
of Pulmonary 
Nodules Incidentally Detected on CT" for comments and reference: 

___ 

 
Brief Hospital Course:
TRANSITIONAL ISSUES: 
=====================
[ ] Patient planning to leave ___ for 2 months starting on 
___. We are trying to schedule outpatient stress test prior 
to departure. Please follow up. 
[ ] New diffuse 1.1 cm pulmonary nodules noted on CTA: Please 
follow up with interventional pulmonology, they are currently 
working on scheduling an appointment for the patient 
[ ] Per radiology, in a high-risk patient, both a CT follow-up 
in 3 to 6 months and in 18 to 24 months is recommended for these 
pulmonary nodules 
[ ] Increased atorvastatin to 40 
[ ] Discharged with famotidine prescription 
[ ] please consider PFTs to assess for COPD

#CODE: FULL, confirmed 
#CONTACT: ___ ___

PATIENT SUMMARY:
==================
___ with PMH bladder cancer s/p TURBT (low grade, ___, HTN, 
HLD, significant smoking hx who p/w acute chest discomfort for 
which was likely GERD. 

ACUTE ISSUES:
=============
# Chest discomfort: Per history, most likely GERD however given 
CVD risk factors, would opt for stress test. EKG no ischemic 
changes, trop x2 negative. No chest pain while hospitalized. 
Other factors ruled out such as PE, heart failure. Will need a 
stress test as outpatient. Started on Famotidine 

# NEW PULMONARY NODULES
# HISTORY OF BLADDER CANCER
History of bladder cancer, local/non-invasive, s/p TURBT in 
___. Followed with Dr. ___ until ___ with 
negative voided urines.  Per patient had follow-up last ___ 
which was
normal but unable to find those records. CT-A on admission 
incidentally noted numerous pulmonary nodules up to 1.1cm, c/f 
malignancy and potentially metastasis if recurred bladder ca. UA 
here showing trace blood. Wil be scheduled interventional 
pulmonology follow up as outpatient. 

CHRONIC ISSUES:
===============
# HLD: increased atorvastatin to 40 
# HTN: continue home amlodipine-benazepril 2.5-10mg daily
# R LEG SCIATICA: continue home gabapentin 300mg qHS
# Insomnia: cont home lorazepam 1mg PO qHS PRN 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine-benazepriL 2.5-10 mg oral DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Gabapentin 300 mg PO QHS 
4. LORazepam 1 mg PO QHS:PRN sleep 

 
Discharge Medications:
1.  Famotidine 20 mg PO Q12H 
RX *famotidine [Acid Controller] 20 mg 1 tablet(s) by mouth once 
a day Disp #*30 Tablet Refills:*2 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
3.  amLODIPine-benazepriL 2.5-10 mg oral DAILY  
4.  Gabapentin 300 mg PO QHS  
5.  LORazepam 1 mg PO QHS:PRN sleep  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Chest discomfort 
Gastroesophageal reflux disease
Pulmonary nodules 

SECONDARY DIAGNOSES
Bladder cancer
Hyperlipidemia 
Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had chest discomfort 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had lab work and EKGs done to assess for heart attack. 
- You did NOT have a heart attack. This chest discomfort is 
likely from your GI reflux. 
- You were also found to have lung nodules

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take Famotidine and the increased 
Atorvastatin 
- Please follow up with your PCP. You will need a stress test 
for which we are working on scheduling, however your PCP may 
also be able to help 
- Please follow up with the lung doctors, you will be called 
with an appointment. 

We wish you the best! 

Sincerely, 
Your ___ Team 

 
Followup Instructions:
___